**********
.SUBCKT HC04  11 8   2   7
*             In Vcc Gnd Out
X9 3 8 2 5 HCINV
X10 5 8 2 4 HCINV
X11 4 8 2 6 HCINV
LIN 11 3 3.1N
CIN 3 0 1.17P
LOUT 6 7 2.9N
COUT 6 0 1.03P
.ENDS
**********
.SUBCKT HCINV 4  2   3   1
*             In Vcc Gnd Out
M1 1 4 3 3 N1
M2 1 4 2 2 P1
.ENDS
**********
.MODEL N1 NMOS (LEVEL=1 VTO=.65 KP=4.75M GAMMA=1.24
+ PHI=.75 LAMBDA=10.4M RD=4.2 RS=4.2 IS=50F PB=.8 MJ=.46
+ CBD=1.21P CBS=1.45P CGSO=3.12N CGDO=2.6N CGBO=4.28N)
*   -- Assumes default L=100U W=100U --
*  6 Volt  .1 Amp  30 ohm  Enh-Mode N-Channel MOSFET  05-21-1993
**********
.MODEL P1 PMOS (LEVEL=1 VTO=-.65 KP=4.75M GAMMA=1.24
+ PHI=.75 LAMBDA=10.4M RD=4.2 RS=4.2 IS=50F PB=.8 MJ=.46
+ CBD=1.21P CBS=1.45P CGSO=3.12N CGDO=2.6N CGBO=4.28N)
*   -- Assumes default L=100U W=100U --
*  6 Volt  .1 Amp  30 ohm  Enh-Mode P-Channel MOSFET  05-21-1993
**********
